US04052514
2-[1-(2,2',4'-Trifluoro-4-biphenylyl)ethyl]-4,4-dimethyl-2-oxazoline (0.53 g.) was stirred and refluxed with hydrochloric acid (5 ml. of 2N) for 5 hrs. The mixture was diluted with water, extracted with ether and the latter extracted with 2.5% potassium carbonate solution. The aqueous extracts were acidified with dilute hydrochloric acid and the precipitate isolated in ether, washed with water, dried and evaporated. The residue was recrystallized from light petroleum (b.p. 80°-100° C.) to give 2-(2,2',4'-trifluoro-4-biphenylyl)propionic acid, m.p. 107°-108.5° C.

reactant | 2-[1-(2,2',4'-Trifluoro-4-biphenylyl)ethyl]-4,4-dimethyl-2-oxazoline | 0.53 g | FC1=C(C=CC(=C1)C(C)C=1OCC(N1)(C)C)C1=C(C=C(C=C1)F)F | C19H18F3NO
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
reactant | water | O | H2O
product | 2-(2,2',4'-trifluoro-4-biphenylyl)propionic acid | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=C(C=C(C=C1)F)F | C15H11F3O2
